US03965257
4-[4-(α -Hydroxy-α -phenylbenzyl)piperidino] butyrophenone hydrochloride
To 53.4 g (0.2 mole) of α,α -diphenyl-4-piperidinemethanol in 1 liter of toluene was added 38.4 g (0.21 mole) of 4-chlorobutyrophenone, 21 g (0.25 mole) of sodium bicarbonate and 0.1 g of potassium iodide. The mixture was stirred and refluxed for 72 hours then filtered. The filtrate was concentrated to 300 ml and allowed to stand at room temperature until a precipitate formed. The precipitate was filtered off and dissolved in hot toluene, filtered and cooled. A solid formed which was dissolved in diethyl ether and treated with ethereal HCl. The resulting product was recrystallized from methanolbutanone to give the title compound, M.P. 193.5°-195° C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.2 mole, 53.4 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 4-chlorobutyrophenone | 0.21 mole, 38.4 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | sodium bicarbonate | 0.25 mole, 21 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | HCl | Cl | ClH
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[4-(α -Hydroxy-α -phenylbenzyl)piperidino] butyrophenone hydrochloride | Cl.OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | InChI=1S/C28H31NO2.ClH/c30-27(23-11-4-1-5-12-23)17-10-20-29-21-18-26(19-22-29)28(31,24-13-6-2-7-14-24)25-15-8-3-9-16-25;/h1-9,11-16,26,31H,10,17-22H2;1H
